### PR TITLE
[Merged by Bors] - feat: add an `eval%` elaborator for interpolating the output of `#eval`

### PR DESCRIPTION
**Pull request by eric-wieser**
This is taken from [my zulip message here](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/How.20to.20simplify.20this.20proof.20without.20using.20a.20have.20statement.3F/near/422294189).

As an example:
```lean
example : 2^10 = eval% 2^10 := by
  -- goal is `2^10 = 1024`
  sorry
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/eval_elab.lean [hunk 1]
```diff
@@ -0,0 +1,45 @@
...
+unsafe nonrec instance Finset.toExpr
+    {α : Type u} [ToLevel.{u}] [ToExpr α] [HasInstance (DecidableEq α)] : ToExpr (Finset α) :=
+  have u' : Level := ToLevel.toLevel.{u}
+  have α' : Q(Type u') := Lean.ToExpr.toTypeExpr α
+  letI : Q(DecidableEq $α') := HasInstance.expr (DecidableEq α)
+  { toTypeExpr := q(Finset $α')
+    toExpr := fun x => show Q(Finset $α') from
+      match show List Q($α') from x.val.unquot.reverse.map toExpr with
+      | [] => q(∅)
+      | x0 :: xs => List.foldl (fun s x => q(insert $x $s)) q({$x0}) xs }
```
Comment (eric-wieser) [inline test/eval_elab.lean:39]: This would be a lot cleaner with #5952, but that PR is not ready to merge yet, and this is just a test file anyway.

File: test/eval_elab.lean [hunk 2]
```diff
@@ -0,0 +1,45 @@
...
+-- this obviously doesn't scale, which is why this is only in the test file
+instance : HasInstance (DecidableEq ℕ) :=
+  ⟨q(inferInstanceAs <| DecidableEq ℕ)⟩
+instance : HasInstance (DecidableEq (Finset ℕ)) :=
+  ⟨q(inferInstanceAs <| DecidableEq (Finset ℕ))⟩
+instance : HasInstance (DecidableEq (Finset (Finset ℕ))) :=
+  ⟨q(inferInstanceAs <| DecidableEq (Finset (Finset ℕ)))⟩
+
+open Qq Lean
+/-- `Finset α` can be converted to an expr only if there is some way to find `DeciableEq α`. -/
```
Comment (adomani) [inline test/eval_elab.lean:29]:
```suggestion
/-- `Finset α` can be converted to an expr only if there is some way to find `DecidableEq α`. -/
```

File: Mathlib/Tactic/Eval.lean [hunk 3]
```diff
@@ -0,0 +1,44 @@
...
+```lean
+example : 2^10 = eval% 2^10 := by
+  -- goal is `2^10 = 1024`
+  sorry
+```
+This only works if a `Lean.ToExpr X` instance is available.
+-/
+syntax (name := eval_expr) "eval% " term : term
+
+@[term_elab eval_expr]
```
Comment (adomani) [inline Mathlib/Tactic/Eval.lean:35]:
```suggestion
@[term_elab eval_expr, inherit_doc eval_expr]
```
maybe?

Comment (eric-wieser) [reply Mathlib/Tactic/Eval.lean:35]: Sure, can't hurt.

File: Mathlib/Tactic/Eval.lean [hunk 4]
```diff
@@ -0,0 +1,44 @@
...
+-/
+syntax (name := eval_expr) "eval% " term : term
+
+@[term_elab eval_expr, inherit_doc eval_expr]
+unsafe def elabEvalExpr : Lean.Elab.Term.TermElab
+| `(term| eval% $stx) => fun exp => do
+  let e ← Lean.Elab.Term.elabTermAndSynthesize stx exp
+  let e ← instantiateMVars e
+  let ee ← Elab.Term.elabTerm (← `(Lean.toExpr $(← e.toSyntax))) (some q(Expr))
+  Lean.Meta.evalExpr Expr q(Expr) ee (safety := .unsafe)
```
Comment (adomani) [inline Mathlib/Tactic/Eval.lean:41]:
```suggestion

The `!`-version `eval%! x` also logs the expression computed by `eval%`.
-/
syntax (name := eval_expr) "eval% " ("!")? term : term

/-- An auxilliary function for converting Syntax to an `Expr`. -/
unsafe def elabEvalExprCore (stx: TSyntax `term) (exp: Option Expr) : TermElabM Expr := do
  let e ← Lean.Elab.Term.elabTermAndSynthesize stx exp
  let e ← instantiateMVars e
  let ee ← Elab.Term.elabTerm (← `(Lean.toExpr $(← e.toSyntax))) (some q(Expr))
  Lean.Meta.evalExpr Expr q(Expr) ee (safety := .unsafe)

@[term_elab eval_expr, inherit_doc eval_expr]
unsafe def elabEvalExpr : Lean.Elab.Term.TermElab
| `(term| eval% $stx) => elabEvalExprCore stx
| `(term| eval%! $stx) => fun exp => do
  let res ← elabEvalExprCore stx exp
  logInfo m!"'eval% {stx}' computed '{← Meta.ppExpr res}'"
  return res
```
What do you think of this?  This way, if you use `eval%` and it does not work, you have the option of seeing what it is that it computed.

For instance, you would get some indication of what failed here:
```lean
#guard_expr
  (eval%! Finset.powerset ({1, 2, 3})) =
    {{1}, {2}, {1, 2}, {3}, {1, 3}, {2, 3}, {1, 2, 3}}
/-
`guard` says the result is not true, but `eval%` says

'eval% Finset.powerset ({1, 2, 3})' computed '{∅, {1}, {2}, {1, 2}, {3}, {1, 3}, {2, 3}, {1, 2, 3}}'
-/
```

Comment (eric-wieser) [reply Mathlib/Tactic/Eval.lean:41]: Isn't this just combining `eval%` with `show_term`?

Comment (adomani) [reply Mathlib/Tactic/Eval.lean:41]: You are probably right, but then maybe it might be useful to mention this in the doc-string, since I had not thought of using `show_term` in this situation.

File: Mathlib/Tactic/Eval.lean [hunk 5]
```diff
@@ -0,0 +1,44 @@
...
+`eval% x` evaluates the term `x : X` in the interpreter, and then injects the resulting expression.
+
+As an example:
+```lean
+example : 2^10 = eval% 2^10 := by
+  -- goal is `2^10 = 1024`
+  sorry
+```
+This only works if a `Lean.ToExpr X` instance is available.
+-/
```
Comment (adomani) [inline Mathlib/Tactic/Eval.lean:32]:
```suggestion

Using 'show_term eval% x' displays what is the value of 'eval% x'.
-/
```
Do you think that this might be useful?

**Comment by ericrbg-harmonic** [comment]
Is this expected to work with let-bound vars? e.g. 
```lean
example : True := let a := 2; let b := eval% a * 2
```

**Comment by eric-wieser** [comment]
That's not expected to work; though it could certainly give a better message. You could always put the `let` inside the `eval%`

File: Mathlib/Tactic/Eval.lean (hunk 5 above)
Comment (kmill) [reply Mathlib/Tactic/Eval.lean:31]: How about phrased like this?

```suggestion

Tip: you can use `show_term eval% x` to get the value of `eval% x`.
-/
```

Let's go ahead with including `eval%`:

bors d+

**Comment by kmill** [comment]
For a future version, it would be nice if it could capture local `let` values.

One way to implement this: figure out which variables would need to be reverted, throw an error if any of them are not `let`s, and then use `mkLetFVars` before passing it to eval.

File: Mathlib/Tactic/Eval.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Tactic/Eval.lean:33]: Added, but I replaced `get` with `see` to avoid any confusion about how to store the gotten value.

**Comment by eric-wieser** [comment]
bors merge


Perhaps worth noting that this won't handle universe variables correctly until https://github.com/leanprover/lean4/pull/3090 lands.
